US06946558B2
5-bromo-2-methylsulfanyl pyridine (3.47 g) was dissolved in a mixed solvent of dichloromethane and methanol with the ratio of 5:1 (v/v) and magnesium monoperoxyphthalate hexahydrate was slowly added dropwise. After completing the reaction for 3 hours at room temperature, magnesium monoperoxyphthalate hexahydrate was filtered out, sodium bicarbonate and salt water was added to dilute, and extracted with dichloromethane to separate an organic layer. The separated organic layer was dried with anhydrous magnesium sulfate and distilled under reduced pressure. As a result, 5-bromo-2-methylsulfonyl pyridine (3.7 g, yield: 92%) was obtained as a white solid.

reactant | 5-bromo-2-methylsulfanyl pyridine | 3.47 g | BrC=1C=CC(=NC1)SC | C6H6BrNS
reactant | magnesium monoperoxyphthalate hexahydrate | O.O.O.O.O.O.C(C=1C(C(=O)[O-])=CC=CC1)(=O)O[O-].[Mg+2]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 5-bromo-2-methylsulfonyl pyridine | 3.7 g, yield: 92% | BrC=1C=CC(=NC1)S(=O)(=O)C | C6H6BrNO2S
